US07049342B2
Ethyl 2-methoxy-3-[4-methoxy-3-[2-[4-(trifluoromethyl)phenyl]acetylamino]phenyl]propanoate
4-Trifluoromethylphenylacetic acid (316 mg, 1.50 mmol) and methyl 2-methoxy-3-(3-amino-4-methoxyphenyl)propanoate (253 mg, 0.999 mmol) were dissolved in dichloromethane (10 mL) and, after N-cyclohexyl-carbodiimido-N′-methyl polystyrene (1.46 g, 2.26 mmol) was added, the mixture was stirred for 30.5 hours at room temperature. The insolubles were removed by filtration and the filtrate was concentrated under reduced pressure to afford the title product quantitatively as brown crystals.

reactant | 4-Trifluoromethylphenylacetic acid | 1.50 mmol, 316 mg | FC(C1=CC=C(C=C1)CC(=O)O)(F)F | C9H7F3O2
reactant | methyl 2-methoxy-3-(3-amino-4-methoxyphenyl)propanoate | 0.999 mmol, 253 mg | COC(C(=O)OC)CC1=CC(=C(C=C1)OC)N | C12H17NO4
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Ethyl 2-methoxy-3-[4-methoxy-3-[2-[4-(trifluoromethyl)phenyl]acetylamino]phenyl]propanoate | COC(C(=O)OCC)CC1=CC(=C(C=C1)OC)NC(CC1=CC=C(C=C1)C(F)(F)F)=O | C22H24F3NO5
